US05576343
21.0 g of 2-acetyl-5-benzofurancarbonitrile was dissolved in 300 ml of dichloromethane. With stirring at a temperature of -10° C., 30 ml of dichloromethane solution containing 18.2 g of bromine was added dropwise to the above solution. After gradually warming up to ice-cold temperature, the resulting reaction solution was mixed with chloroform and washed with 10% sodium thiosulfate aqueous solution. After drying the organic layer and subsequent concentration to dryness, the resulting residue was recrystallized from a benzene/n-hexane mixture to obtain 21.0 g of 2-(2-bromo-1-oxoethyl)-5-benzofurancarbonitrile in the form of colorless crystals.

reactant | 2-acetyl-5-benzofurancarbonitrile | 21.0 g | C(C)(=O)C=1OC2=C(C1)C=C(C=C2)C#N | C11H7NO2
reactant | bromine | 18.2 g | BrBr | Br2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(2-bromo-1-oxoethyl)-5-benzofurancarbonitrile | 21.0 g | BrCC(=O)C=1OC2=C(C1)C=C(C=C2)C#N | C11H6BrNO2
